US07022730B2
The compound Bis(4-chloro-1-methylindol-3-yl)-(5-hydroxymethyl-2-furyl)methane was prepared following procedure A, starting from N-methyl 4-chloro indole and 5-hydroxy methyl furfural. LC: Tr 2.73 min, MS: 439 (M+H)+

reactant | N-methyl 4-chloro indole | CN1C=CC2=C(C=CC=C12)Cl | C9H8ClN
reactant | 5-hydroxy methyl furfural | OCC1=CC=C(C=O)O1 | C6H6O3
product | Bis(4-chloro-1-methylindol-3-yl)-(5-hydroxymethyl-2-furyl)methane | ClC1=C2C(=CN(C2=CC=C1)C)C(C=1OC(=CC1)CO)C1=CN(C2=CC=CC(=C12)Cl)C | C24H20Cl2N2O2
